2139-03-09 12:46:00 Physician Attending Progress Note
Chief Complaint: UGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    52 yo male with CHF, CAD, CVA, DM, AKA/BKA' with recent admission
   for decompensated CHF EF 25% and pna,  CRI, prior renal transplant.
   Ho/ gastritis.  admitted on [**3-3**] with volume overload.  Had been
   diuresed on the floor.  Began having coffee ground emesis at 1:00AM.
   NGT suctioned 1L of coffee ground material.  Lavage with clots and
   small amount of blood.  He is on chronic coumadin for CVA and low EF.
   Received 2U of PRBC, 2U FFP, and 2U DDAVP.  Hct unchanged at 27 after
   transfusion.
   24 Hour Events:
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2139-3-9**] 01:57 AM
   Morphine Sulfate - [**2139-3-9**] 11:13 AM
   Other medications:
   sirolimus
   prednisone
   protonix
   NaHCO3
   epo
   SSI
   lidocaine patch
   allopurinol
   isordil
   sevalemar
   reglan
   bactrim
   vitamin D
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-9**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 96 (95 - 109) bpm
   BP: 114/65(77) {91/42(55) - 117/95(99)} mmHg
   RR: 8 (8 - 16) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           1,650 mL
   PO:
           TF:
   IVF:
   240 mL
   Blood products:
   1,300 mL
   Total out:
                                                                      0 mL
                                                                    675 mL
   Urine:
   575 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    975 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Conjunctiva pale
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), ++JVP
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   27.3 %
        [image002.jpg]
                             [**2139-3-9**]  11:06 AM
   Hct
   27.3
   Fluid analysis / Other labs: ESBL in urine
   ECG: echo: stable EF at 25%
   Assessment and Plan
   UGIB:  no nauseated any longer and no further hematemesis.  Has likely
   stopped bleeding.   Continue PPI drip.
   Coagulopathy:  on coumadin for h/o CVA.  Hold coumadin for now.
   Chronic systolic heart failure:  still massively fluid overloaded.
   acute on chronic renal failure:  Continue rapamycin
   DM II:  Did not get glargine last night.  Give half dose today as he is
   NPO currently
   Urine cx with ESBL klebsiella.  Unclear if this needs to be treated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-3-9**] 01:58 AM
   22 Gauge - [**2139-3-9**] 02:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2139-03-10 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started aggressive lasix drip at 30 mg/hr with 500mg chlorothiazide
   IV BID. If this does not work, may try Milrinone.
   - No further hematemesis.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Furosemide (Lasix) - 30 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-3-9**] 04:00 PM
   Morphine Sulfate - [**2139-3-10**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-10**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.3
   HR: 103 (93 - 103) bpm
   BP: 142/86(99) {106/49(64) - 142/86(99)} mmHg
   RR: 10 (7 - 16) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,865 mL
                                                                    742 mL
   PO:
             TF:
   IVF:
                                                                  1,395 mL
                                                                    682 mL
   Blood products:
                                                                  1,300 mL
   Total out:
                                                                  1,240 mL
                                                                    450 mL
   Urine:
                                                                  1,140 mL
                                                                    450 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,625 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), JVD
   difficult to appreciate but appears to be up to ear at 30 degrees.
   loud holosystolic SM throughout precordium
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at R base, Diminished: at L base)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   throughout abdomen, appears worse periumbilical to epigastric, but
   reports pain throughout, Obese, tympanic to percussion
   Extremities: L AKA, R BKA with 2+ stump edema.  Bilat finger amps.
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): [**Hospital1 **], [**2139-2-25**] (though struggles with
   this), Movement: Purposeful, Tone: Not assessed, CN II-XII intact.
   slower responses but appropriate.
   Labs / Radiology
   314 K/uL
   9.9 g/dL
   113 mg/dL
   4.3 mg/dL
   20 mEq/L
   4.5 mEq/L
   114 mg/dL
   99 mEq/L
   134 mEq/L
   31.3 %
   8.6 K/uL
        [image002.jpg]
                             [**2139-3-9**]  11:06 AM
                             [**2139-3-10**]  02:56 AM
   WBC
   8.6
   Hct
   27.3
   31.3
   Plt
   314
   Cr
   4.3
   Glucose
   113
   Other labs: PT / PTT / INR:27.3/40.9/2.7, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
   52 y/o M w/ ischemic cardiomyopathy with EF 20%, CKD s/p renal
   transplant, admit with acute on chronic systolic heart failure; now
   transfer to MICU with concern for acute UGIB.
   .
   # UGIB.  History of gastritis and esophagitis on past endoscopies. No
   known liver disease to suggest portal HTN/varices.  Also consider
   [**Doctor First Name **] [**Doctor Last Name **] with history of retching.  No EtOH, NSAID use, though
   does take coumadin and prednisone.  On PPI at baseline.  HCT stable
   thus far, but very early.  HD stable though slightly more tachy than
   baseline.  Given 2u PRBC, 2u FFP, and DDAVP.  Since MICU admit, no
   further episodes of hematemesis.
   - IV PPI gtt x72hrs
   - GI following
   - Hold anti-HTNs for now.
   - Hold coumadin and ASA for now (?stents in place)
   - DDAVP for bleeding in the setting of significant renal dysfunction.
   .
   #. Acute on Chronic Systolic Heart Failure: Diuresing on IV furosemide
   gtt and bolus chlorthiazide.
   - Cards/CHF team following, as well as renal for volume management.
   - Continue to hold lisinopril; not on BB.
   - O2 by nasal cannula, monitor sats.
   .
   #. Renal Failure and s/p renal transplant: Stably poor with diuresis
   (creatinine in mid-4 range).
   - strict I/O and weights
   - Hold ACEI as above for now.
   - Renal transplant following
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] level
   - Epo.
   .
   #. Diabetes: Continue glargine and insulin sliding scale.
   .
   #. RLE Wound: Stage 3-4. wound care consulting. Daily dressing changes
   for now, Wound care nurse attempting to get vac.
   .
   # CAD/HTN: continue imdur, hold hydral; hold ACE.  Hold ASA for now.
   .
   # Metabolic acidosis.  Despite aggressive IV diuresis.  Likely renal
   failure related.
   - COntinue PO bicarb.
   .
   # Postitive urine culture.  Continues to grow GNRs in urine (last
   [**3-7**]); previous culture with ESBL Klebs.  Team treating as colonizer.
   - f/u culture data; if hemodynamically unstable will treat despite
   likelihood that not truly causing infection.
   - check when last foley change (or change again)
   .
   # FEN: NPO intake, NGT in place
   # Prophylaxis: boots
   # Access: PIV x 2; ?likely CVL tonight
   # Code: full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-3-9**] 01:58 AM
   22 Gauge - [**2139-3-9**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-03-10 11:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo man with DM I, ESRD on HD, CHF, admitte with LGIB
   24 Hour Events:
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 30 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-3-9**] 04:00 PM
   Morphine Sulfate - [**2139-3-10**] 02:00 AM
   Other medications:
   isordil
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Flowsheet Data as of  [**2139-3-10**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 102 (93 - 103) bpm
   BP: 120/82(91) {108/51(70) - 142/86(99)} mmHg
   RR: 20 (7 - 20) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,865 mL
                                                                    819 mL
   PO:
             TF:
   IVF:
                                                                  1,395 mL
                                                                    759 mL
   Blood products:
                                                                  1,300 mL
   Total out:
                                                                  1,240 mL
                                                                    740 mL
   Urine:
                                                                  1,140 mL
                                                                    740 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,625 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: + stump edema
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   314 K/uL
   113 mg/dL
   4.3 mg/dL
   20 mEq/L
   4.5 mEq/L
   114 mg/dL
   99 mEq/L
   134 mEq/L
   31.3 %
   8.6 K/uL
        [image002.jpg]
                             [**2139-3-9**]  11:06 AM
                             [**2139-3-10**]  02:56 AM
   WBC
   8.6
   Hct
   27.3
   31.3
   Plt
   314
   Cr
   4.3
   Glucose
   113
   Other labs: PT / PTT / INR:27.3/40.9/2.7, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
   UGIB:  h/o gastritis and esophagitis.  No evidence of further
   bleeding.  Protonix drip.  Then go back to PO
   acute on chronic systolic HF:  Continue high dose lasix, isordil
   has had poor po intake - potentially may benefit from NGT
   Psych:  Seems severely depressed, with poor appetite.  consider further
   work up for this.
   DM I, receiving half dose of glargine
   RLE wound
   urine cx.  with ESBL klebs, likely colonizer, so won't treat
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-3-9**] 01:58 AM
   22 Gauge - [**2139-3-9**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2139-03-11 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal recs would pursue UF but defer to CHF team, recs metolazone
   10mg [**Hospital1 **]
   - CHF/Dr. [**First Name (STitle) **] recs milrinone gtt, metop 5mg ivx1, metoprolol 50po
   tid, d/c chlorothiazide, start Metolazone 5 mg PO BID, HR goal 60-80
   - GI recs no scope at this time d/t medical issues, serial HCT. -
   started milrinone gtt, metolazone 10mg [**Hospital1 **]
   - social work consult for depression
   - reg cardiac diet
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 30 mg/hour
   Milrinone - 0.375 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Metoprolol - [**2139-3-10**] 09:15 PM
   Morphine Sulfate - [**2139-3-11**] 05:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-11**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 104 (95 - 107) bpm
   BP: 108/47(59) {103/47(59) - 139/97(104)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88.2 kg (admission): 90 kg
             Total In:
                                                                  1,092 mL
                                                                    252 mL
   PO:
             TF:
   IVF:
                                                                  1,032 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    357 mL
   Urine:
                                                                  1,610 mL
                                                                    357 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -518 mL
                                                                   -105 mL
   Respiratory support
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), JVD
   difficult to appreciate but appears to be up to ear at 30 degrees.
   loud holosystolic SM throughout precordium
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at R base, Diminished: at L base)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   throughout abdomen, appears worse periumbilical to epigastric, but
   reports pain throughout, Obese, tympanic to percussion
   Extremities: L AKA, R BKA with 2+ stump edema.  Bilat finger amps.
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): [**Hospital1 **], [**2139-2-25**] (though struggles with
   this), Movement: Purposeful, Tone: Not assessed, CN II-XII intact.
   slower responses but appropriate.
   Labs / Radiology
   324 K/uL
   9.8 g/dL
   109 mg/dL
   4.4 mg/dL
   17 mEq/L
   4.0 mEq/L
   116 mg/dL
   100 mEq/L
   138 mEq/L
   30.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2139-3-9**]  11:06 AM
                             [**2139-3-10**]  02:56 AM
                             [**2139-3-10**]  05:12 PM
                             [**2139-3-11**]  03:18 AM
   WBC
   8.6
   11.8
   Hct
   27.3
   31.3
   31.3
   30.8
   Plt
   314
   324
   Cr
   4.3
   4.3
   4.4
   Glucose
   113
   83
   109
   Other labs: PT / PTT / INR:40.5/43.8/4.4, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   52 y/o M w/ ischemic cardiomyopathy with EF 20%, CKD s/p renal
   transplant, admit with acute on chronic systolic heart failure; now
   transfer to MICU with concern for acute UGIB.
   .
   # UGIB.  History of gastritis and esophagitis on past endoscopies. No
   known liver disease to suggest portal HTN/varices.  Also consider
   [**Doctor First Name **] [**Doctor Last Name **] with history of retching.  No EtOH, NSAID use, though
   does take coumadin and prednisone.  On PPI at baseline.  HCT stable
   thus far, but very early.  HD stable though slightly more tachy than
   baseline.  Given 2u PRBC, 2u FFP, and DDAVP.  Since MICU admit, no
   further episodes of hematemesis.
   - IV PPI gtt x72hrs, will plan to d/c gtt tomorrow and start PPI IV
   - GI recs contact if has rebleed, no plan for EGD currently given
   medical issues.
   - Hold coumadin and ASA for now (?stents in place)
   - DDAVP for bleeding in the setting of significant renal dysfunction.
   .
   #  Elevated INR:  INR off coumadin had been trending down
   appropriately, this AM [**3-11**] INR 4.4 of unclear reason.
   - recheck INR
   - vit K po if recheck shows cont elevated INR
   .
   #. Acute on Chronic Systolic Heart Failure: Diuresing on IV furosemide
   gtt and bolus metolazone.  Started [**3-10**] on milrinone gtt and metoprolol
   for HR control, minimal improvement in diuresis with initiation of
   milrinone.
   - Cards/CHF, Dr. [**First Name (STitle) **] team following, as well as renal for volume
   management.
   - cont lasix gtt, cont metolazone.
   - started on milrinone gtt yesterday, cont milrinone gtt today per CHF
   team
   - Continue to hold lisinopril
   - cont inc metoprolol to 75mg tid, titrate up as tolerated for goal HR
   60-80
   - O2 by nasal cannula, monitor sats.
   .
   #. Renal Failure and s/p renal transplant: Stably poor with diuresis
   (creatinine in mid-4 range).
   - strict I/O and weights
   - Hold ACEI as above for now.
   - cont milrinone gtt
   - Renal transplant following, will discuss [**Last Name (un) **] dosing given low level
   - Epo.
   .
   #. Diabetes: Continue glargine and insulin sliding scale.  Blood
   glucose well controlled currently
   .
   #. RLE Wound: Stage 3-4. wound care consulting. Daily dressing changes
   for now, Wound care nurse attempting to get vac.
   .
   # CAD/HTN: continue metolazone, metoprolol; hold ACE.  Hold ASA for
   now.
   .
   # Metabolic acidosis.  Despite aggressive IV diuresis.  Likely renal
   failure related.
   - COntinue PO bicarb.
   .
   # Postitive urine culture.  Continues to grow GNRs in urine (last
   [**3-7**]); previous culture with ESBL Klebs.  Team treating as colonizer.
   - f/u culture data; if hemodynamically unstable will treat despite
   likelihood that not truly causing infection.
   - check when last foley change (or change again)
   .
   # FEN: regular diet as tolerated, d/c NGT
   # Prophylaxis: INR therapeutic currently, PPI gtt, not stooling
   currently, on bowel regimen
   # Access: PIV x 2;
   # Code: full
   # Dispo:  will remain in the MICU care while on milrinone gtt.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-3-9**] 01:58 AM
   22 Gauge - [**2139-3-9**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-03-11 09:55:00 Physician Attending Progress Note
Chief Complaint: UGIB/CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo man with DM I, acute on chronic systolic HF, admitted to MICU
   with UGIB which has improved, but now treating his HF.
   24 Hour Events:
   Started milrinone last night with some increase in diuresis.
   Also started on lopressor for high HR.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.375 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Furosemide (Lasix) - 30 mg/hour
   Other ICU medications:
   Metoprolol - [**2139-3-10**] 09:15 PM
   Morphine Sulfate - [**2139-3-11**] 08:45 AM
   Other medications:
   rapamycin
   prednisone 5mg
   PPI infusion
   NaHCO3
   epogen
   insulin SS
   allopurinol
   imdur
   sevalemer
   reglan
   calcitriol
   Bactim DS
   furosemid
   lopressor
   zaroxolyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: poor appetite
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2139-3-11**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 108 (95 - 108) bpm
   BP: 98/57(67) {98/47(59) - 139/97(104)} mmHg
   RR: 15 (10 - 20) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88.2 kg (admission): 90 kg
             Total In:
                                                                  1,092 mL
                                                                    310 mL
   PO:
             TF:
   IVF:
                                                                  1,032 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    417 mL
   Urine:
                                                                  1,610 mL
                                                                    417 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -518 mL
                                                                   -107 mL
   Respiratory support
   SpO2: 96%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   324 K/uL
   109 mg/dL
   4.4 mg/dL
   17 mEq/L
   4.0 mEq/L
   116 mg/dL
   100 mEq/L
   138 mEq/L
   30.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2139-3-9**]  11:06 AM
                             [**2139-3-10**]  02:56 AM
                             [**2139-3-10**]  05:12 PM
                             [**2139-3-11**]  03:18 AM
   WBC
   8.6
   11.8
   Hct
   27.3
   31.3
   31.3
   30.8
   Plt
   314
   324
   Cr
   4.3
   4.3
   4.4
   Glucose
   113
   83
   109
   Other labs: PT / PTT / INR:40.5/43.8/4.4, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   Acute on chronic systolic HF:  Lasix drip and metolazone.  On
   milrinone.  Has not had great response - will discuss with Dr. [**First Name (STitle) **]
   and renal team.
   Tachycardia - increase lopressor
   GIB: Hct stable, will change to [**Hospital1 **] PPI today
   coagulopathy:  has not been eating, will give po dose vitamin K 1mg to
   prevent it from drifting up more.
   acute on chronic renal failure:  still with poor urine output.
   DM I
   LE wounds:  daily dressing changes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-3-9**] 01:58 AM
   22 Gauge - [**2139-3-9**] 02:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2139-03-12 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - NG tube discontinued
   - CHF/[**Doctor Last Name **] recs increased rate of milrinone drip, increase metoprolol
   to 100 mg TID
   - Nephrology rec increase furosemide drip to 40 mg/hr and anticipate
   placement of tunneled HD catheter in order to begin HD for volume
   management
   - Vitamin K, 4 mg PO given in order to help corrent evening INR of 6.5
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 40 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2139-3-11**] 09:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-12**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 87 (87 - 108) bpm
   BP: 99/42(57) {87/33(49) - 103/60(71)} mmHg
   RR: 10 (8 - 16) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.2 kg (admission): 90 kg
             Total In:
                                                                    829 mL
                                                                    254 mL
   PO:
                                                                    100 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    669 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                    549 mL
                                                                    450 mL
   Urine:
                                                                    549 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    280 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress, appears somewhat
   depressed
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Normal S1/S2, +systolic murmur, JVD difficult to
   appreciate but appears to be up to jaw line at 30 degrees.  loud
   holosystolic SM throughout precordium
   Respiratory / Chest: Crackles at R base, Diminished at L base
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: throughout
   abdomen, appears worse periumbilical to epigastric, but reports pain
   throughout, Obese, tympanic to percussion
   Extremities: L AKA, R BKA with 2+ stump edema.  Bilat finger amps.
   Skin:  No rash: , No jaundice
   Neurologic: Alert and oriented, Follows simple commands, appears
   depressed, CN II-XII intact.
   Labs / Radiology
   344 K/uL
   9.2 g/dL
   103 mg/dL
   4.8 mg/dL
   20
   5.8 mEq/L
   117 mg/dL
   97 mEq/L
   135 mEq/L
   30.0 %
   10.1 K/uL
        [image002.jpg]
                             [**2139-3-9**]  11:06 AM
                             [**2139-3-10**]  02:56 AM
                             [**2139-3-10**]  05:12 PM
                             [**2139-3-11**]  03:18 AM
                             [**2139-3-11**]  09:48 PM
                             [**2139-3-12**]  06:32 AM
   WBC
   8.6
   11.8
   9.7
   10.1
   Hct
   27.3
   31.3
   31.3
   30.8
   30.3
   30.0
   Plt
   [**Telephone/Fax (3) 8725**]44
   Cr
   4.3
   4.3
   4.4
   4.6
   Glucose
   113
   83
   109
   103
   Other labs: PT / PTT / INR:55.7/54.1/6.5
4.2, Differential-Neuts:86.5
   %, Lymph:8.8 %, Mono:4.0 %, Eos:0.5 %, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:7.2 mg/dL
   Assessment and Plan
   52 y/o M w/ ischemic cardiomyopathy with EF 20%, CKD s/p renal
   transplant, admit with acute on chronic systolic heart failure; now
   transfer to MICU with concern for acute UGIB.
   .
   #. Renal Failure and s/p renal transplant: Stably poor with diuresis
   (creatinine in mid-4 range).
   - strict I/O and weights
   - Hold ACEI as above for now.
   - cont milrinone gtt
   - Renal transplant following, will discuss [**Last Name (un) **] dosing given low level
   - Epo.
   - will likely need dialysis. This will need to be discussed with family
   and patient. [**Month (only) 60**] need temporary access as INR is elevated. Tunneled
   access may require a lower INR. Patient is also hesitant to move
   forward with permanent dialysis
   - increase sevelamer
   - monitor K. this morning
s sample was hemolyzed
   .
   # UGIB.  History of gastritis and esophagitis on past endoscopies. No
   known liver disease to suggest portal HTN/varices.  Also consider
   [**Doctor First Name **] [**Doctor Last Name **] with history of retching.  No EtOH, NSAID use, though
   does take coumadin and prednisone.  On PPI at baseline.  HCT stable
   thus far, but very early.  HD stable though slightly more tachy than
   baseline.  Given 2u PRBC, 2u FFP, and DDAVP.  Since MICU admit, no
   further episodes of hematemesis.
   - d/c IV gtt and bolus dose PPI
   - GI recs contact if has rebleed, no plan for EGD currently given
   medical issues.
   - Hold coumadin and ASA for now (?stents in place)
   - DDAVP for bleeding in the setting of significant renal dysfunction.
   .
   #  Elevated INR:  INR off coumadin had been trending down
   appropriately, but has increased significantly yesterday and remains
   elevated today. Received 5mg vit K on [**3-11**]. unclear reason, probably
   poor nutrition playing a role
   - recheck INR
   - vit K po again today
   .
   #. Acute on Chronic Systolic Heart Failure: Diuresing on IV furosemide
   gtt and bolus metolazone.  Started [**3-10**] on milrinone gtt and metoprolol
   for HR control, minimal improvement in diuresis with initiation of
   milrinone.
   - Cards/CHF, Dr. [**First Name (STitle) **] team following, as well as renal for volume
   management.
   - cont lasix gtt, cont metolazone.
   - cont milrinone gtt today per CHF team
   - Continue to hold lisinopril
   - cont metoprolol at 100mg tid
   - O2 by nasal cannula, monitor sats.
   .
   #. Back pain: patient does have chronic back pain which today he states
   is [**7-6**]. His wife is concerned that morphine may be making him
   somnolent. Will switch to long-acting PO meds today to avoid IV
   morphine
   #. Diabetes: Continue glargine and insulin sliding scale.  Blood
   glucose well controlled currently
   .
   #. RLE Wound: Stage 3-4. wound care consulting. Daily dressing changes
   for now, Wound care nurse attempting to get vac.
   .
   # CAD/HTN: continue metolazone, metoprolol; hold ACE.  Hold ASA for
   now.
   .
   # Metabolic acidosis.  Despite aggressive IV diuresis.  Likely renal
   failure related.
   - COntinue PO bicarb.
   .
   # Possible depression: Patient denies depressive symptoms however
   appears down and will discuss further with him whether he would like
   this to be addressed.
   # Postitive urine culture.  Continues to grow GNRs in urine (last
   [**3-7**]); previous culture with ESBL Klebs.  Team treating as colonizer.
   - f/u culture data; if hemodynamically unstable will treat despite
   likelihood that not truly causing infection.
   - check when last foley change (or change again)
   .
   # FEN: regular diet as tolerated, discontinued NGT
   # Prophylaxis: INR therapeutic currently, PPI, not stooling currently,
   on bowel regimen
   # Access: PIV x 2; will need HD access
   # Code: full
   # Dispo:  will remain in the MICU care while on milrinone gtt.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  glargine and sliding scale
   Lines:
   22 Gauge - [**2139-3-11**] 03:14 PM
   18 Gauge - [**2139-3-11**] 10:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-03-12 10:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo man with DM I, admit to hosp with acute on chronic systolic HF,
   and renal failure.  Trying to diurese him - increased milrinone, lasix,
   and beta-blocker
   24 Hour Events:
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 40 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2139-3-12**] 05:30 AM
   Other medications:
   epogen
   SSI
   lidocaine
   allopurinol
   imdur
   sevalamer
   reglan
   bactrim
   zaroxolyn
   milrinone
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-12**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96
   HR: 94 (87 - 102) bpm
   BP: 94/55(65) {87/33(49) - 106/60(71)} mmHg
   RR: 17 (8 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.2 kg (admission): 90 kg
             Total In:
                                                                    829 mL
                                                                    431 mL
   PO:
                                                                    100 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    669 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                    549 mL
                                                                    462 mL
   Urine:
                                                                    549 mL
                                                                     62 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    280 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: + stump edema
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   344 K/uL
   103 mg/dL
   4.8 mg/dL
   20 mEq/L
   5.8 mEq/L
   117 mg/dL
   97 mEq/L
   135 mEq/L
   30.0 %
   10.1 K/uL
        [image002.jpg]
                             [**2139-3-9**]  11:06 AM
                             [**2139-3-10**]  02:56 AM
                             [**2139-3-10**]  05:12 PM
                             [**2139-3-11**]  03:18 AM
                             [**2139-3-11**]  09:48 PM
                             [**2139-3-12**]  06:32 AM
   WBC
   8.6
   11.8
   9.7
   10.1
   Hct
   27.3
   31.3
   31.3
   30.8
   30.3
   30.0
   Plt
   [**Telephone/Fax (3) 8725**]44
   Cr
   4.3
   4.3
   4.4
   4.6
   4.8
   Glucose
   113
   83
   109
   103
   103
   Other labs: PT / PTT / INR:39.1/50.7/4.2, Differential-Neuts:86.5 %,
   Lymph:8.8 %, Mono:4.0 %, Eos:0.5 %, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:7.4 mg/dL
   Assessment and Plan
   UGIB:  Stable, can change protonix to [**Hospital1 **]
   Acute on chronic renal failure:  discussed with him that he may need
   dialysis long term, and he said that he's not sure that he would want
   long term HD.  Will discuss
   with wife.
   re-check [**Last Name (un) **] level
   acute on chronic systolic CHF:  will discuss with Dr. [**Last Name (STitle) **] about
   milrinone as he has not has much of a response
   back pain:  getting frequent IV morphine.  tylenol standing
   depression:  seems very depressed.  will discuss with him about
   treatment of depression
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2139-3-11**] 03:14 PM
   18 Gauge - [**2139-3-11**] 10:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2139-03-13 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family (wife) requested 24 hours to contemplate dialysis
   - Recieved additional 5mg PO vitamin K to reverse INR
   - Plan for catheter today if decision is to go forward with dialysis.
   Will need INR<3 for temporary catheters or INR<1.5 for tunneled
   catheter.
   - No urine output so discontinued Milrinone drip and discontinued
   Metoprolol.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 40 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2139-3-13**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-13**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 86 (85 - 94) bpm
   BP: 99/46(60) {91/29(47) - 115/59(70)} mmHg
   RR: 11 (9 - 17) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90 kg
             Total In:
                                                                    823 mL
                                                                    178 mL
   PO:
                                                                    250 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    573 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                    482 mL
                                                                     20 mL
   Urine:
                                                                     82 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    341 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, appears somewhat
   depressed
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Normal S1/S2, +systolic murmur, JVD difficult to
   appreciate but appears to be up to jaw line at 30 degrees.  loud
   holosystolic SM throughout precordium
   Respiratory / Chest: Crackles at R base, Diminished at L base
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: throughout
   abdomen, appears worse periumbilical to epigastric, but reports pain
   throughout, Obese, tympanic to percussion
   Extremities: L AKA, R BKA with 2+ stump edema.  Bilat finger amps.
   Skin:  No rash: , No jaundice
   Neurologic: Alert and oriented, Follows simple commands, appears
   depressed, CN II-XII intact.
   Labs / Radiology
   337 K/uL
   8.8 g/dL
   31 mg/dL
   5.1 mg/dL
   22 mEq/L
   4.0 mEq/L
   120 mg/dL
   98 mEq/L
   137 mEq/L
   27.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-3-9**]  11:06 AM
                             [**2139-3-10**]  02:56 AM
                             [**2139-3-10**]  05:12 PM
                             [**2139-3-11**]  03:18 AM
                             [**2139-3-11**]  09:48 PM
                             [**2139-3-12**]  06:32 AM
                             [**2139-3-13**]  04:43 AM
   WBC
   8.6
   11.8
   9.7
   10.1
   7.2
   Hct
   27.3
   31.3
   31.3
   30.8
   30.3
   30.0
   27.4
   Plt
   [**Telephone/Fax (3) 8725**]44
   337
   Cr
   4.3
   4.3
   4.4
   4.6
   4.8
   5.1
   Glucose
   113
   83
   109
   103
   103
   31
   Other labs: PT / PTT / INR:22.6/46.3/2.2, Differential-Neuts:86.5 %,
   Lymph:8.8 %, Mono:4.0 %, Eos:0.5 %, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:6.9 mg/dL
   Assessment and Plan
   52 y/o M w/ ischemic cardiomyopathy with EF 20%, CKD s/p renal
   transplant, admit with acute on chronic systolic heart failure; now
   transfer to MICU with concern for acute UGIB.
   .
   #. Renal Failure and s/p renal transplant: Stably poor with diuresis
   (creatinine in mid-4 range).  Patient with continually more uremic
   symptoms.  Mental status today [**3-12**] much worse with patient more
   delirious.  Wife reluctant to start dialysis.
   - will discuss with wife again today need for dialysis and dialysis
   catheter placement.   Milrinone gtt discontinued on [**3-12**] after no
   improvement in renal function or diuresis.  Lasix gtt d/c this AM [**3-13**]
   due to lack of response to lasix.
   - Tunnelled dialysis catheter today.  Will give 2u FFP and recheck INR
   in preparation for IR guided tunneled dialysis catheter.
   - Plan CVVH once dialysis catheter in place.
   - Renal transplant following, [**Last Name (un) **] dosing per renal
   - Epo
   - cont sevelamer
   .
   # UGIB.  History of gastritis and esophagitis on past endoscopies. No
   known liver disease to suggest portal HTN/varices.  Also consider
   [**Doctor First Name **] [**Doctor Last Name **] with history of retching.  No EtOH, NSAID use, though
   does take coumadin and prednisone.  On PPI at baseline.  HCT stable
   thus far, but very early.  HD stable though slightly more tachy than
   baseline.  Given 2u PRBC, 2u FFP, and DDAVP.  Since MICU admit, no
   further episodes of hematemesis.
   - PPI [**Hospital1 **]
   - GI recs contact if has rebleed, no plan for EGD currently given
   medical issues.
   - Hold coumadin and ASA for now (?stents in place)
   - DDAVP for bleeding in the setting of significant renal dysfunction.
   .
   #  Elevated INR:  INR off coumadin had been trending down
   appropriately, but has increased significantly yesterday and remains
   elevated today. Received 5mg vit K on [**3-11**]. unclear reason, probably
   poor nutrition playing a role
   - INR improved today after po vit K yesterday.  Cont to trend INR.
   .
   #. Acute on Chronic Systolic Heart Failure: Patient upon admission
   placed on IV furosemide gtt and bolus metolazone.  Started [**3-10**] on
   milrinone gtt and metoprolol for HR control, minimal improvement in
   diuresis with initiation of milrinone.  Decision to stop metoprolol and
   milrinone gtt on [**3-12**] due to minimal improvement and worsening uremic
   symptoms.
   - CVVH today for fluid negative goal
   - Cards/CHF, Dr. [**First Name (STitle) **] team following, as well as renal for volume
   management.
   - Continue to hold lisinopril
   - O2 by nasal cannula, monitor sats.
   .
   #. Back pain: patient does have chronic back pain which today he states
   is [**7-6**].   Pain now well controlled with ATC Tylenol and MS contin.
   - ATC Tylenol
   - MS Contin
   #. Diabetes: Continue glargine and insulin sliding scale.  Blood
   glucose well controlled currently
   - hypoglycemia today.  Will monitor blood sugars closely as pt is now
   starting on CVVH.
   .
   #. RLE Wound: Stage 3-4. wound care consulting. Daily dressing changes
   for now, Wound care nurse attempting to get vac.
   .
   # CAD/HTN: hold ACE.  Hold ASA for now.
   - d/c metolazone
   .
   # Metabolic acidosis.  Despite aggressive IV diuresis.  Likely renal
   failure related.
   - CVVH today.
   - Continue PO bicarb.
   .
   # Possible depression: Patient denies depressive symptoms however
   appears down and will discuss further with him whether he would like
   this to be addressed.  Patient progressively more delirious since MICU
   admit, likely related to uremia from renal failure in addition to
   baseline depression.
   # Postitive urine culture.  Continues to grow GNRs in urine (last
   [**3-7**]); previous culture with ESBL Klebs.  Team treating as colonizer.
   - f/u culture data; if hemodynamically unstable will treat despite
   likelihood that not truly causing infection.
   - check when last foley change (or change again)
   .
   # FEN: regular diet as tolerated, discontinued NGT
   # Prophylaxis: INR therapeutic currently, PPI, not stooling currently,
   on bowel regimen
   # Access: PIV x 2; will need HD access
   # Code: DNR, not DNI.
   # Dispo:  Cont ICU today now that pt will be on CVVH
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2139-3-11**] 03:14 PM
   18 Gauge - [**2139-3-11**] 10:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-03-13 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with DM I, acute on chronic systolic HF, Chronic renal
   failure.  Milrinone, beta-blocker and lasix drip stopped.
   24 Hour Events:
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-3-13**] 12:11 AM
   Other medications:
   rapamycin
   prednisone 5mg
   protonix
   sodium HCO3
   epo
   SSI, glargine
   lidoderm patch
   isordil
   sevalemer
   reglan
   calcitriol
   bactrim
   MS contin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-13**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 87 (85 - 91) bpm
   BP: 102/43(59) {91/29(47) - 123/86(92)} mmHg
   RR: 12 (9 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90 kg
           Total In:
                                                                    823 mL
                                                                    612 mL
   PO:
                                                                    250 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    573 mL
                                                                     72 mL
   Blood products:
   300 mL
   Total out:
                                                                    482 mL
                                                                     20 mL
   Urine:
                                                                     82 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    341 mL
                                                                    592 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: stump edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   337 K/uL
   31 mg/dL - received D50
   5.1 mg/dL
   22 mEq/L
   4.0 mEq/L
   120 mg/dL
   98 mEq/L
   137 mEq/L
   27.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-3-9**]  11:06 AM
                             [**2139-3-10**]  02:56 AM
                             [**2139-3-10**]  05:12 PM
                             [**2139-3-11**]  03:18 AM
                             [**2139-3-11**]  09:48 PM
                             [**2139-3-12**]  06:32 AM
                             [**2139-3-13**]  04:43 AM
   WBC
   8.6
   11.8
   9.7
   10.1
   7.2
   Hct
   27.3
   31.3
   31.3
   30.8
   30.3
   30.0
   27.4
   Plt
   [**Telephone/Fax (3) 8725**]44
   337
   Cr
   4.3
   4.3
   4.4
   4.6
   4.8
   5.1
   Glucose
   113
   83
   109
   103
   103
   31
   Other labs: PT / PTT / INR:22.6/46.3/2.2, Differential-Neuts:86.5 %,
   Lymph:8.8 %, Mono:4.0 %, Eos:0.5 %, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:6.9 mg/dL
   Assessment and Plan
   UGIB:  no further bleeding
   ESRD/acute on chronic systolic CHF:  to get tunneled HD line and CVVHD
   today.
   coagulopathy: FFP for procedure
   anemia:  Hct slightly low today
   pain: better controlled with tylenol, MS contin, and prn morphine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2139-3-11**] 03:14 PM
   18 Gauge - [**2139-3-11**] 10:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), intubation ok.
   Disposition :ICU
   Total time spent: 35 minutes

2139-03-14 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2139-3-13**] 05:50 PM
   - IR guided tunneled HD line placed after 3u FFP given for inc INR
   - Placed on CVVH overnight
   - Decreased ISS due to initiation of CVVH
   - PPD placed L ventral forarm 6pm, hepatitis panel sent
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2139-3-13**] 05:00 PM
   Fentanyl - [**2139-3-13**] 05:49 PM
   Dextrose 50% - [**2139-3-14**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-14**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.4
C (95.8
   HR: 82 (78 - 94) bpm
   BP: 107/50(65) {89/32(51) - 123/86(92)} mmHg
   RR: 13 (7 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90 kg
             Total In:
                                                                  1,665 mL
                                                                    804 mL
   PO:
                                                                    340 mL
             TF:
   IVF:
                                                                    437 mL
                                                                    754 mL
   Blood products:
                                                                    888 mL
   Total out:
                                                                    543 mL
                                                                  2,721 mL
   Urine:
                                                                     20 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,122 mL
                                                                 -1,917 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, appears somewhat
   depressed
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Normal S1/S2, +systolic murmur, JVD difficult to
   appreciate but appears to be up to jaw line at 30 degrees.  loud
   holosystolic SM throughout precordium
   Respiratory / Chest: Crackles at R base, Diminished at L base
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: throughout
   abdomen, appears worse periumbilical to epigastric, but reports pain
   throughout, Obese, tympanic to percussion
   Extremities: L AKA, R BKA with 2+ stump edema.  Bilat finger amps.
   Skin:  No rash: , No jaundice
   Neurologic: Alert and oriented, Follows simple commands, appears
   depressed, CN II-XII intact.
   Labs / Radiology
   348 K/uL
   10.0 g/dL
   34 mg/dL
   4.3 mg/dL
   23 mEq/L
   4.9 mEq/L
   97 mg/dL
   95 mEq/L
   133 mEq/L
   29.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2139-3-9**]  11:06 AM
                             [**2139-3-10**]  02:56 AM
                             [**2139-3-10**]  05:12 PM
                             [**2139-3-11**]  03:18 AM
                             [**2139-3-11**]  09:48 PM
                             [**2139-3-12**]  06:32 AM
                             [**2139-3-13**]  04:43 AM
                             [**2139-3-13**]  06:15 PM
                             [**2139-3-14**]  03:05 AM
   WBC
   8.6
   11.8
   9.7
   10.1
   7.2
   7.5
   6.6
   Hct
   27.3
   31.3
   31.3
   30.8
   30.3
   30.0
   27.4
   28.9
   29.6
   Plt
   [**Telephone/Fax (3) 8725**]44
   337
   371
   348
   Cr
   4.3
   4.3
   4.4
   4.6
   4.8
   5.1
   5.2
   4.3
   Glucose
   113
   83
   109
   103
   103
   31
   66
   34
   Other labs: PT / PTT / INR:17.1/36.2/1.5, Differential-Neuts:86.5 %,
   Lymph:8.8 %, Mono:4.0 %, Eos:0.5 %, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.6 mg/dL
   Assessment and Plan
   52 y/o M w/ ischemic cardiomyopathy with EF 20%, CKD s/p renal
   transplant, admit with acute on chronic systolic heart failure; now
   transfer to MICU with concern for acute UGIB.
   .
   #. Renal Failure and s/p renal transplant: Stably poor with diuresis
   (creatinine in mid-4 range).  Patient with continually more uremic
   symptoms.  Mental status today [**3-12**] much worse with patient more
   delirious.  Wife reluctant to start dialysis.
   - will discuss with wife again today need for dialysis and dialysis
   catheter placement.   Milrinone gtt discontinued on [**3-12**] after no
   improvement in renal function or diuresis.  Lasix gtt d/c this AM [**3-13**]
   due to lack of response to lasix.  After discussion with wife in
   addition to patient becoming more uremic, decision was made to initiate
   dialysis on [**3-13**].  A tunneled HD catheter was placed by IR on [**3-13**] and
   CVVH was initiated with good response.
   - Per renal, will start HD today.
   - Renal transplant following, [**Last Name (un) **] dosing per renal
   - Epo
   - cont sevelamer
   .
   # UGIB.  History of gastritis and esophagitis on past endoscopies. No
   known liver disease to suggest portal HTN/varices.  Also consider
   [**Doctor First Name **] [**Doctor Last Name **] with history of retching.  No EtOH, NSAID use, though
   does take coumadin and prednisone.  On PPI at baseline.  HCT stable
   thus far, but very early.  HD stable though slightly more tachy than
   baseline.  Given 2u PRBC, 2u FFP, and DDAVP.  Since MICU admit, no
   further episodes of hematemesis.
   - cont PPI [**Hospital1 **]
   - GI recs contact if has rebleed, no plan for EGD currently given
   medical issues.
   - cont to hold coumadin.
   - restart ASA today
   - DDAVP for bleeding in the setting of significant renal dysfunction.
   .
   #  Elevated INR:  INR off coumadin had been trending down
   appropriately, but has increased significantly yesterday and remains
   elevated today. Received 5mg vit K on [**3-11**]. unclear reason, probably
   poor nutrition playing a role.  Improved INR after receiving PO vit K.
   - Cont to trend INR.
   - will place on heparin gtt today for hx CHF
   .
   #. Acute on Chronic Systolic Heart Failure: Patient upon admission
   placed on IV furosemide gtt and bolus metolazone.  Started [**3-10**] on
   milrinone gtt and metoprolol for HR control, minimal improvement in
   diuresis with initiation of milrinone.  Decision to stop metoprolol and
   milrinone gtt on [**3-12**] due to minimal improvement and worsening uremic
   symptoms.  Lasix gtt d/c.  Patient placed on CVVH after tunneled HD
   line placed by IR on [**3-13**] with 2L off on first overnight of CVVH.
   - HD per renal today
   - will start ASA/heparin gtt today.
   - Cards/CHF, Dr. [**First Name (STitle) **] team following, as well as renal for volume
   management.
   - Continue to hold lisinopril
   .
   #. Back pain: patient does have chronic back pain which today he states
   is [**7-6**].   Pain now well controlled with ATC Tylenol and MS contin.
   - ATC Tylenol
   - will d/c MS Contin
   #. Diabetes: Continue glargine and insulin sliding scale.  Blood
   glucose well controlled currently
   - hypoglycemia today.  Will monitor blood sugars closely as pt is now
   starting on CVVH.
   - hold dose of lantus today as patient has been persistently
   hypoglycemic with FSBG in 30
   .
   #. RLE Wound: Stage 3-4. wound care consulting. Daily dressing changes
   for now, Wound care nurse attempting to get vac.
   .
   # CAD/HTN: hold ACE.  Hold ASA for now.
   - d/c metolazone
   .
   # Metabolic acidosis.  Despite aggressive IV diuresis.  Likely renal
   failure related.
   - HD
   - Continue PO bicarb.
   .
   # Possible depression: Patient denies depressive symptoms however
   appears down and will discuss further with him whether he would like
   this to be addressed.  Patient progressively more delirious since MICU
   admit, likely related to uremia from renal failure in addition to
   baseline depression.
   # Postitive urine culture.  Continues to grow GNRs in urine (last
   [**3-7**]); previous culture with ESBL Klebs.  Team treating as colonizer.
   - f/u culture data; if hemodynamically unstable will treat despite
   likelihood that not truly causing infection.
   - check when last foley change
   .
   # FEN: regular diet as tolerated
   # Prophylaxis: heparin gtt today, PPI, bowel regimen
   # Access: PIV x 2, Tunneled R HD line.
   # Code: DNR, not DNI.
   # Dispo:  call out to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2139-3-11**] 03:14 PM
   18 Gauge - [**2139-3-11**] 10:12 PM
   Dialysis Catheter - [**2139-3-13**] 05:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-03-14 10:10:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: CHF, UGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 IR placed DIALYSIS CATHETER - START [**2139-3-13**] 05:50 PM
CVVH started yesterday - 2L removed since then
PPD placed
 CALLED OUT
Hypoglycemia this morning - given 1 amp D50
                             History obtained from [**Hospital 85**] Medical records
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2139-3-13**] 05:00 PM
   Fentanyl - [**2139-3-13**] 05:49 PM
   Dextrose 50% - [**2139-3-14**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-14**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 84 (78 - 94) bpm
   BP: 111/55(70) {89/32(51) - 123/83(90)} mmHg
   RR: 12 (7 - 13) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90 kg
             Total In:
                                                                  1,665 mL
                                                                  1,099 mL
   PO:
                                                                    340 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    437 mL
                                                                    849 mL
   Blood products:
                                                                    888 mL
   Total out:
                                                                    543 mL
                                                                  2,882 mL
   Urine:
                                                                     20 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,122 mL
                                                                 -1,783 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior)
   Abdominal: Soft, Non-tender
   Extremities: s/p b/l AKA
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, 'hospital', Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   348 K/uL
   34 mg/dL
   4.3 mg/dL
   23 mEq/L
   4.9 mEq/L
   97 mg/dL
   95 mEq/L
   133 mEq/L
   29.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2139-3-9**]  11:06 AM
                             [**2139-3-10**]  02:56 AM
                             [**2139-3-10**]  05:12 PM
                             [**2139-3-11**]  03:18 AM
                             [**2139-3-11**]  09:48 PM
                             [**2139-3-12**]  06:32 AM
                             [**2139-3-13**]  04:43 AM
                             [**2139-3-13**]  06:15 PM
                             [**2139-3-14**]  03:05 AM
   WBC
   8.6
   11.8
   9.7
   10.1
   7.2
   7.5
   6.6
   Hct
   27.3
   31.3
   31.3
   30.8
   30.3
   30.0
   27.4
   28.9
   29.6
   Plt
   [**Telephone/Fax (3) 8725**]44
   337
   371
   348
   Cr
   4.3
   4.3
   4.4
   4.6
   4.8
   5.1
   5.2
   4.3
   Glucose
   113
   83
   109
   103
   103
   31
   66
   34
   Other labs: PT / PTT / INR:17.1/36.2/1.5, Differential-Neuts:86.5 %,
   Lymph:8.8 %, Mono:4.0 %, Eos:0.5 %, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.6 mg/dL
   Assessment and Plan
   UGIB:
   -no evidence of further bleeding
   -gi consulted.  No plan for intervention.
   ESRD:
   -tunneled line place
   -cvvh initiated
        -2L fluid removed
   -remains anuric
   CHF:
   -Dr. [**First Name (STitle) **] /CHF attending following
   -regimen per their recs
   -removing fluid via dialysis given acute on chronic renal failure
   coagulopathy:
   -presumed residual warfarin effect
   anemia:
   Hct slightly low today
   pain:
   -well controlled
   mental status:
   -?uremia impact -if so should see some improvement with HD
   -depression, med contribution as well.
   -minimize sedating meds
   diabetes
   -hypoglcyemic today requiring amp d50
   -not eating much - hold Lantis
   RLE (AKA stump) wound
   -dsg changes daily
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2139-3-11**] 03:14 PM
   18 Gauge - [**2139-3-11**] 10:12 PM
   Dialysis Catheter - [**2139-3-13**] 05:50 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: